US07985753B2
5-Methyl-5,6,7,8-tetrahydro-[1,6]naphthyridine
To a solution of aldehyde A (1 mol) in benzene (approx. 20 ml per 1 g of the starting compound) nitromethane (1.2 mol), piperidine (0.1 mol) and acetic acid (0.1 mol) are added. The reaction mixture is refluxed for 2.5 h with azeotrope removing of water. Then, the solvent is evaporated in vacuo. The residue is triturated with cold methanol, filtered, washed with cold methanol that resulted in product crystals in good to moderate yields.

reactant | nitromethane | 1.2 mol | [N+](=O)([O-])C | CH3NO2
reactant | piperidine | 0.1 mol | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.1 mol | C(C)(=O)O | C2H4O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 5-Methyl-5,6,7,8-tetrahydro-[1,6]naphthyridine | CC1C=2C=CC=NC2CCN1 | C9H12N2
